US04057418
1 ml of concentrated sulfuric acid, followed by 9.6 g (60 mmoles) of hydroxymethyl-(β-chloroethyl)-sulfone were added at 60° C, whilst stirring, to a filtered solution of 12.6 g (50 moles) of 2-chloro-5-bromo-3-aminobenzoic acid in 150 ml of hot acetonitrile. The mixture was stirred for a further 2.5 hours at 50° C and was then cooled to 10° C, and the product which had precipitated was filtered off. It was rinsed with water and dried in air. 15 g (77% of theory) of 2-chloro-5-bromo-[(β-chloroethyl)-sulfonylmethylamino]-benzoic acid were obtained in the form of a yellow powder of melting point 164° C (with decomposition).

reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | hydroxymethyl-(β-chloroethyl)-sulfone | 60 mmoles, 9.6 g | OCS(=O)(=O)CCCl | C3H7ClO3S
reactant | 2-chloro-5-bromo-3-aminobenzoic acid | 50 moles, 12.6 g | ClC1=C(C(=O)O)C=C(C=C1N)Br | C7H5BrClNO2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2-chloro-5-bromo-[(β-chloroethyl)-sulfonylmethylamino]-benzoic acid | 15 g, 77% | ClC1=C(C(=O)O)C=C(C=C1NCS(=O)(=O)CCCl)Br | C10H10BrCl2NO4S
